US07465825B2
A solution of 2-n-butylbenzofurane (19.8 g, 114 mmol) and 4-bromobenzoyl chloride (25.0 g, 114 mmol) in dry dichloromethane (300 mL, 0.4 M) was cooled to 0° C. and treated with AlCl3 (16.6 g, 1.1 equiv., 125.4 mmol) in 3 portions. After the additions were complete, the solution was stirred for 3 h and carefully added to ice water. After separation, the aqueous layer was extracted with dichloromethane (2×200 mL) and the combined organic layers were washed with water, sat'd aq NaCl, dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification by flash column chromatography (1-2% ethyl acetate in heptane) afforded (4-bromo-phenyl)-(2-butyl-benzofuran-3-yl)-methanone (14.6 g, 36%).

reactant | 2-n-butylbenzofurane | 114 mmol, 19.8 g | C(CCC)C=1OC2=C(C1)C=CC=C2 | C12H14O
reactant | 4-bromobenzoyl chloride | 114 mmol, 25.0 g | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
reactant | AlCl3 | 125.4 mmol, 16.6 g, 1.1 equiv. | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | dichloromethane | 0.4 M, 300 mL | ClCCl | CH2Cl2
product | (4-bromo-phenyl)-(2-butyl-benzofuran-3-yl)-methanone | 14.6 g, 36% | BrC1=CC=C(C=C1)C(=O)C1=C(OC2=C1C=CC=C2)CCCC | C19H17BrO2
